US04440929
4-Mercaptoimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester
To an ethanolic solution (200 ml) of 4-chloroimidazo [1,5-a]quinoxaline 3-carboxylic acid ethyl ester (4.8 g) was added thiourea (1.5 g). The mixture was heated on steam bath for one hour. After cooling to room temperature, the precipitated product was collected as a yellowish crystalline solid (3.2 g, 67% yield). Recrystallized from methanol-chloroform, m.p. 251°-253° C.

reactant | thiourea | 1.5 g | NC(=S)N | CH4N2S
reactant | 4-chloroimidazo [1,5-a]quinoxaline 3-carboxylic acid ethyl ester | 200 ml, 4.8 g | C(C)OC(=O)C=1N=CN2C1C(=NC1=CC=CC=C21)Cl | C13H10ClN3O2
product | 4-Mercaptoimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester | 3.2 g, 67% yield | C(C)OC(=O)C=1N=CN2C1C(=NC1=CC=CC=C21)S | C13H11N3O2S
